US08754075B2
3,5-Dichloro-pyridine-2-carboxylic acid [3-((4R,5R)-2-amino-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide
The condensation of (4R,5R)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (A8.3) and 3,5-dichloro-pyridine-2-carboxylic acid following procedure I yielded the title compound as a colorless solid. MS (ISP): m/z=429.2 [M+H]+and 431.1 [M+2+H]+.

reactant | (4R,5R)-4-(5-amino-2-fluoro-phenyl)-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC[C@]1(C)F)N)C)F | C12H15F2N3O
reactant | 3,5-dichloro-pyridine-2-carboxylic acid | ClC=1C(=NC=C(C1)Cl)C(=O)O | C6H3Cl2NO2
product | 3,5-Dichloro-pyridine-2-carboxylic acid [3-((4R,5R)-2-amino-5-fluoro-4,5-dimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC[C@]([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1Cl)Cl)(C)F | C18H16Cl2F2N4O2
